* D:\Faculdade\Semestre8\Sistemas_Embarcados\Monitoramento_Bateria\LTSpice\main.asc
XX1 N001 0 N002 30% 50% 70% 90% modulo_bateria
V1 N002 0 5
V2 N001 0 SINE(6 6 60)

* block symbol definitions
.subckt modulo_bateria Bateria_Input GND Voltage_Reference 30% 50% 70% 90%
XX1 Bateria_Input GND N004 dividor_bateria
XX2 GND Voltage_Reference N002 N005 N003 N001 referencia
XX3 N004 N004 N001 N002 N004 Voltage_Reference N004 N005 N003 0 30% 90% 50% 70% comparador
.ends modulo_bateria

.subckt dividor_bateria Bateria_Input GND OutPut
R1 Bateria_Input OutPut 14K
R2 OutPut GND 10K
.ends dividor_bateria

.subckt referencia GND voltage_ref 30% 50% 70% 90%
R1 voltage_ref 90% 133
R2 90% GND 1k
R3 voltage_ref 70% 280
R4 70% GND 1k
R5 voltage_ref 50% 470
R6 50% GND 1k
R7 voltage_ref 30% 690
R8 30% GND 1k
.ends referencia

.subckt comparador 10 12 13 2 3 4 5 6 9 11 1 14 7 8
XU1 3 2 4 11 1 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 5 6 4 11 7 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU3 10 9 4 11 8 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 12 13 4 11 14 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.ends comparador

.tran 100m
* PWL(0m 0 1m 12 2m 11 3m 10 4m 9 5m 8 6m 7 7m 6 8m 5 9m 4 10m 3)
.lib UniversalOpamps2.sub
.backanno
.end
